US05866684
0.05 g (0.04 mmol) of (Z)-N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N 1-[1(S)-(dimethoxymethyl)-3-pentenyl]-L-leucinamide was dissolved in 4 ml of a 1:1 solution of dichloromethane and trifluoroaceticacid and containing 3 drops of water. The solution was stirred at room temperature for 1 hour. After removal of the solvent by evaporation the crude product was triturated using diethyl ether to afford 0.03 g of (Z)-2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-alpha-aspartyl]-L-alpha-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-hexenal as a white solid; MS: m/e 845.7 [M+H]+.

reactant | (Z)-N2-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-N 1-[1(S)-(dimethoxymethyl)-3-pentenyl]-L-leucinamide | 0.04 mmol, 0.05 g | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C\C=C/C)C(OC)OC | C55H90N6O14
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroaceticacid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | water | 3 drops | O | H2O
product | (Z)-2(S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-alpha-aspartyl]-L-alpha-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-4-hexenal | 0.03 g | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@H](C=O)C\C=C/C | C41H60N6O13
